2132-08-20 07:47:00 Physician Resident Progress Note
Chief Complaint: 66M with pericardial effusion, elevated LFTs, left
   knee and scrotal swelling.
   24 Hour Events:
 ULTRASOUND - At [**2132-8-19**] 10:21 AM
 CARDIAC CATH - At [**2132-8-19**] 03:00 PM
   pericardial drain, bloody effusion.
   Slight confusion overnight, cleared with re-orientation
   Persistently tachycardic
   Autodiuresing since tap
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain, SOB.  Notes decreased swelling.  Denies recent fevers,
   night sweats.
   Flowsheet Data as of  [**2132-8-20**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 97 (92 - 102) bpm
   BP: 109/60(72) {92/60(69) - 135/95(102)} mmHg
   RR: 21 (15 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    975 mL
                                                                    120 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    855 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                  1,200 mL
   Urine:
                                                                  1,175 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                 -1,080 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General: Awake, alert, NAD, pleasant, appropriate, cooperative.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, MMM, no lesions noted in
   OP
   Neck: JVP still to jaw, though with less prominent cranial venous
   distention that yesterday.
   Pulmonary: Slight decrease at bases, dull to percussion, same as before
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated,
   distant. Has pericardial drain in place draining bloody fluid, incision
   c/d/i.
   Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly noted
   Extremities: Decreased peripheral edema
   Neurologic: Alert, oriented x 3. Able to relate history without
   difficulty. Cranial nerves II-XII intact. Normal bulk, strength and
   tone throughout. No abnormal movements noted. No deficits to light
   touch throughout. No nystagmus, dysarthria, intention or action tremor.
   2+ biceps, triceps, brachioradialis, patellar reflexes and 2+ ankle
   jerks bilaterally. Plantar response was flexor bilaterally.
   Labs / Radiology
   311 K/uL
   11.9 g/dL
   120 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.2 mEq/L
   17 mg/dL
   91 mEq/L
   126 mEq/L
   36.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2132-8-19**]  07:24 AM
                             [**2132-8-19**]  12:43 PM
                             [**2132-8-20**]  12:04 AM
   WBC
   6.7
   7.3
   Hct
   37.2
   36.6
   Plt
   318
   311
   Cr
   1.1
   1.0
   1.0
   TropT
   <0.01
   Glucose
   96
   94
   120
   Other labs: PT / PTT / INR:16.1/29.2/1.4, CK / CKMB /
   Troponin-T:96//<0.01, ALT / AST:136/71, Alk Phos / T Bili:174/1.1,
   Differential-Neuts:67.0 %, Lymph:21.4 %, Mono:9.7 %, Eos:1.6 %,
   Albumin:3.5 g/dL, LDH:256 IU/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.6
   mg/dL TSH 1.4 [**Doctor First Name 1205**] pending
   PERICARDIAL FLUID
   Other Body Fluid Chemistry:
   TotProt: 2.7
   Glucose: 74
   LD(LDH): 1397
   Amylase: 8
   Albumin: 1.7
   PERICARDIAL FLUID; RECEIVED FLUID IN BLUE TOP
   Other Hematology
   VoidSpe: Pnd , no microorganisms, culture pending.
   PERICARDIAL FLUID
   Other Body Fluid Hematology:
   WBC: 3500
   Hct,Fl: 3.5
   Comments: OTHER BODY FLUID Hct,Fl: Spun
   OTHER BODY FLUID Hct,Fl: Spun Hematocrit Performed
   Polys: 4
   Lymphs: 93
   Monos: 3
   Assessment and Plan
   <I>## Pericardial effusion:</I> Likely slowly accumulating given
   history and mild degree of symptoms. Seems to correlate time wise with
   recent surgery, ? meds received at that time may be culprit. Ddx: Acute
   idiopathic or viral pericarditis, purulent pericarditis, tuberculous
   pericarditis, postmyocardial infarction or cardiac surgery, recent or
   remote sharp or blunt chest trauma, including a cardiac diagnostic or
   interventional procedure, HIV infection, malignancy, especially lung
   and breast cancer, hodgkin's disease, mesothelioma, mediastinal
   radiation, recent or remote autoimmune disease, dialysis and, less
   commonly, chronic renal failure, hypothyroidism, especially myxedema,
   and selected drugs.
   -Check Q2 hour pulsus
   -? HIV, pt agrees to sign consent, but is very low risk with negative
   VL in [**2129**].
   -check TSH
   -cancer risk factors/screening up to date
   -cards c/s in am re pericardiocentesis, keep NPO for now.
   -IVF, increase pre-load
   -check ecg
   -Albumin WNL
   -CXR this am
   -Consider lyme serologies, PPD plant.
   .
   <I>## Hyponatremia:</I>Ddx is hypovolemic vs SIADH vs psychogenic
   polydipsia vs low solute (tea and toast) diet. Check: chemistry panel,
   plasma osmolality, urine osmolality, and urine sodium concentration.
   -IV NS after urine sent.
   .
   <I>## s/p LKR:</I>Surgery done at NEBH. Consider touching base with
   them that he is here.
   .
   <I>## :HTN</I> Hold antihypertensives in setting of effusion
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control: Blood sugar well controlled
   Lines:
   20 Gauge - [**2132-8-19**] 05:28 AM
   18 Gauge - [**2132-8-19**] 05:28 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2132-08-20 10:53:00 Physician Attending Progress Note
Chief Complaint: pericardial tamponade
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yr old man s/p total knee complicated by post op swelling of entire
   body found to have pleural and pericardial eff.
   24 Hour Events:
 ULTRASOUND - At [**2132-8-19**] 10:21 AM
 CARDIAC CATH - At [**2132-8-19**] 03:00 PM showed equalization of
   pressures - required
   pericardial drain - 200 cc bloody fliud Pulsus wnet form 20 to 4 mmHg
   Transient confusion overnight
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-20**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.6
   HR: 92 (92 - 102) bpm
   BP: 94/65(72) {92/60(69) - 135/95(102)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    975 mL
                                                                    460 mL
   PO:
                                                                    120 mL
                                                                    460 mL
   TF:
   IVF:
                                                                    855 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                  1,200 mL
   Urine:
                                                                  1,175 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                   -740 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.9 g/dL
   311 K/uL
   120 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.2 mEq/L
   17 mg/dL
   91 mEq/L
   126 mEq/L
   36.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2132-8-19**]  07:24 AM
                             [**2132-8-19**]  12:43 PM
                             [**2132-8-20**]  12:04 AM
   WBC
   6.7
   7.3
   Hct
   37.2
   36.6
   Plt
   318
   311
   Cr
   1.1
   1.0
   1.0
   TropT
   <0.01
   Glucose
   96
   94
   120
   Other labs: PT / PTT / INR:16.1/29.2/1.4, CK / CKMB /
   Troponin-T:96//<0.01, ALT / AST:136/71, Alk Phos / T Bili:174/1.1,
   Differential-Neuts:67.0 %, Lymph:21.4 %, Mono:9.7 %, Eos:1.6 %,
   Albumin:3.5 g/dL, LDH:256 IU/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.6
   mg/dL
   Fluid analysis / Other labs: Bloody
   TP 2.7
   Glc 74
   LDH 1397
   Amylase 8
   ALb 1.7
   WBC 3500 ( 93 lymphs)
   HCT 3.5
   Stain no PMN no micro
   LENI neg for DVT
   Assessment and Plan
   66 yr old man with a hemmorhaic pericardial effusion with tamponade s/p
   pericardial
   1.       Hemmorhagic Pericardial Effusion: decompressed, normal pulsus,
   follow up cx and cytology
 DDx given lymphocyte predominant viral,
   malignancy, TB. Place PPD. Discuss with Cardiology team duration of
   pericardial drain. TSH normal [**Doctor First Name 1205**] pending
   2.       Hyponatremia: improving with pericardial decompression and
   autodiuresis
   3.       remainder of issues as per Housetaff notes
 reviewed and
   discussed on rounds.
   ICU Care
   Nutrition: reg diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-8-19**] 05:28 AM
   18 Gauge - [**2132-8-19**] 05:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :possible transfer to floor with Cardiology pending
   decision on pulling drain
   Total time spent: 45

2132-08-21 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2132-8-20**] 12:00 PM
 CALLED OUT, however unable to go to floor with pericardial drain in
   place
 PPD placed
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-21**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 91 (89 - 103) bpm
   BP: 119/98(88) {94/65(70) - 119/98(97)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 203 kg (admission): 98.1 kg
                  Total In:
                                                                    520 mL
                  PO:
                                                                    520 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                    825 mL
   Urine:
                                                                  2,175 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                 -1,755 mL
                                                                   -825 mL
   Physical Examination
   General: Awake, alert, NAD, pleasant, appropriate, cooperative.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, MMM, no lesions noted in
   OP
   Neck: JVP still to jaw, though with less prominent cranial venous
   distention that yesterday.
   Pulmonary: Slight decrease at bases, dull to percussion, same as before
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated,
   distant. Has pericardial drain in place draining bloody fluid, incision
   c/d/i.
   Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly noted
   Extremities: Decreased peripheral edema. Left knee slightly warmer than
   right.
   Neurologic: Alert, oriented x 3. Able to relate history without
   difficulty. Cranial nerves II-XII intact. Normal bulk, strength and
   tone throughout. No abnormal movements noted. No deficits to light
   touch throughout. No nystagmus, dysarthria, intention or action tremor.
   2+ biceps, triceps, brachioradialis, patellar reflexes and 2+ ankle
   jerks bilaterally. Plantar response was flexor bilaterally.
   Labs / Radiology
   302 K/uL
   11.4 g/dL
   116 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.4 mEq/L
   13 mg/dL
   93 mEq/L
   127 mEq/L
   34.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2132-8-19**]  07:24 AM
                             [**2132-8-19**]  12:43 PM
                             [**2132-8-20**]  12:04 AM
                             [**2132-8-21**]  04:39 AM
   WBC
   6.7
   7.3
   7.2
   Hct
   37.2
   36.6
   34.8
   Plt
   [**Telephone/Fax (3) 4561**]
   Cr
   1.1
   1.0
   1.0
   0.8
   TropT
   <0.01
   Glucose
   96
   94
   120
   116
   Other labs: PT / PTT / INR:16.1/29.2/1.4, CK / CKMB /
   Troponin-T:96//<0.01, ALT / AST:136/71, Alk Phos / T Bili:174/1.1,
   Differential-Neuts:67.0 %, Lymph:21.4 %, Mono:9.7 %, Eos:1.6 %,
   Albumin:3.5 g/dL, LDH:256 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.6
   mg/dL
   Pericardial Fluid: No organisms or PMLs seen. No AFBs on direct smear.
   Assessment and Plan
   ## Pericardial effusion: Now s/p drainage in cath lab with drain still
   in place. Effusion is exudative, ddx remains [**Last Name (un) 4517**]
s, viral, TB,
   malignancy.  TSH WNL.  Gram stain of effusion negative for
   microorganisms making purulent effusion unlikely.
   -PPD planted; f/u results
   -[**Doctor First Name 1205**] 1:40 speckled pattern
   -Follow up fluid culture, cytology
   -Monitor BP
   -Monitor I/Os, if UOP slows may consider diuresis if pt still
   clinically volume overload.
   -Follow up cards recs re when to remove drain, likely later today.
   -lyme serologies pending
   .
   ## Hyponatremia: Low FeNA on urine lytes prior to IVF, likely
   functional hypovolemic hyponatremia in setting of poor cardiac output.
   Has been slowly correcting with NS, expect to continue to improve now
   that forward flow improved s/p tap.
   -check pm NA
   .
   ## s/p LKR: Surgery done at NEBH. Dr. [**Last Name (STitle) 4518**] is surgeon, wife called
   him, is aware pt is here.  Confirms that surgery was uneventful.  Given
   that left knee slightly warmer than right, will ask ortho to eval for
   evidence of infection.
   .
   ## :HTN Hold antihypertensives in setting of effusion
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  sugars well controlled
   Lines:
   20 Gauge - [**2132-8-19**] 05:28 AM
   18 Gauge - [**2132-8-19**] 05:28 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PO diet
   Communication:  Comments:
   Code status: Full code
   Disposition: called out pending drain removal

2132-08-21 11:18:00 Physician Attending Progress Note
Chief Complaint: pericardial tamponade
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2132-8-20**] 12:00 PM
 CALLED OUT
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-21**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.3
   HR: 112 (89 - 112) bpm
   BP: 123/83(93) {94/65(70) - 134/98(105)} mmHg
   RR: 28 (15 - 28) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 203 kg (admission): 98.1 kg
                  Total In:
                                                                    520 mL
                                                                    360 mL
   PO:
                                                                    520 mL
                                                                    360 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                  1,330 mL
   Urine:
                                                                  2,175 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
                                                                     30 mL
   Balance:
                                                                 -1,755 mL
                                                                   -970 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   Gen: alert NAD
   Chest:  JVP elevated to 10, RR
   Chest dullmness to percussion [**1-3**] way up , scattred rales, no wheeze
   Abd: soft NT
   Ext: left greater than right knee swelling and warmth.
   Labs / Radiology
   11.4 g/dL
   302 K/uL
   116 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.4 mEq/L
   13 mg/dL
   93 mEq/L
   127 mEq/L
   34.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2132-8-19**]  07:24 AM
                             [**2132-8-19**]  12:43 PM
                             [**2132-8-20**]  12:04 AM
                             [**2132-8-21**]  04:39 AM
   WBC
   6.7
   7.3
   7.2
   Hct
   37.2
   36.6
   34.8
   Plt
   [**Telephone/Fax (3) 4561**]
   Cr
   1.1
   1.0
   1.0
   0.8
   TropT
   <0.01
   Glucose
   96
   94
   120
   116
   Other labs: PT / PTT / INR:16.1/29.2/1.4, CK / CKMB /
   Troponin-T:96//<0.01, ALT / AST:136/71, Alk Phos / T Bili:174/1.1,
   Differential-Neuts:67.0 %, Lymph:21.4 %, Mono:9.7 %, Eos:1.6 %,
   Albumin:3.5 g/dL, LDH:256 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.6
   mg/dL
   Fluid analysis / Other labs: [**Doctor First Name 1205**] + 1:40 speckled
   Lyme serology pending
   Assessment and Plan
   66 yr old man with a hemmorhaic pericardial effusion with tamponade s/p
   pericardial drain
   1.       Hemmorhagic Pericardial Effusion: decompressed, normal pulsus,
   follow up cx and cytology
 DDx given lymphocyte predominant viral,
   malignancy, TB. Place PPD. Discuss with Cardiology team duration of
   pericardial drain. TSH normal [**Doctor First Name 1205**] weakly positive PPD neg at 24 hrs
   will re check in AM
   2.       Hyponatremia: improving with pericardial decompression and
   autodiuresis
 repeat this evening
   3.       Ortho: will consult Ortho here since left knee seems warm this
   AM- hard to relate to primary presentation
 if septic joint then
   endovascular infection would expect persistsent fevers + cx, and PMN
   predominance of pericardial effusion. But we should discuss whether
   worth tapping joint (if needed) with Ortho
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-8-19**] 05:28 AM
   18 Gauge - [**2132-8-19**] 05:28 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor when drain pulled

2132-08-22 05:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Lyme serology negative
   Pt started on NSAIDs for effusion
   GPCs in pairs and clusters reported in 1 anaerobic blood culture bottle
   from pericardial effusion, no growth and negative gram stain from other
   culture bottles from tap.  Pt started on [**Name (NI) **] IV
   Pt's orthopedist [**Name (NI) 420**], knee x-ray showed effusion, knee warm on
   exam, both own orthopedist Dr. [**Last Name (STitle) **] and our orthopedics service find
   exam to be benign and advise against tapping knee.
   Blood cultures pending.
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-22**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 84 (84 - 112) bpm
   BP: 114/77(85) {100/66(76) - 135/100(105)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 203 kg (admission): 98.1 kg
                  Total In:
                                                                    870 mL
                  PO:
                                                                    870 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,980 mL
                                                                      0 mL
   Urine:
                                                                  2,950 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                 -2,110 mL
                                                                      0 mL
   Respiratory support
   SpO2: 94%
   ABG: ////
   Physical Examination
   General: Awake, alert, NAD, pleasant, appropriate, cooperative.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, MMM, no lesions noted in
   OP
   Neck: JVP still to jaw, though with less prominent cranial venous
   distention that yesterday.
   Pulmonary: Slight decrease at bases, dull to percussion, same as before
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated,
   distant. Has pericardial drain in place draining bloody fluid, incision
   c/d/i.
   Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly noted
   Extremities: Decreased peripheral edema. Left knee slightly warmer than
   right.
   Neurologic: Alert, oriented x 3. Able to relate history without
   difficulty. Cranial nerves II-XII intact. Normal bulk, strength and
   tone throughout. No abnormal movements noted. No deficits to light
   touch throughout. No nystagmus, dysarthria, intention or action tremor.
   2+ biceps, triceps, brachioradialis, patellar reflexes and 2+ ankle
   jerks bilaterally. Plantar response was flexor bilaterally.
   Labs / Radiology
   302 K/uL
   11.4 g/dL
   116 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.4 mEq/L
   13 mg/dL
   93 mEq/L
   129 mEq/L
   34.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2132-8-19**]  07:24 AM
                             [**2132-8-19**]  12:43 PM
                             [**2132-8-20**]  12:04 AM
                             [**2132-8-21**]  04:39 AM
   WBC
   6.7
   7.3
   7.2
   Hct
   37.2
   36.6
   34.8
   Plt
   [**Telephone/Fax (3) 4561**]
   Cr
   1.1
   1.0
   1.0
   0.8
   TropT
   <0.01
   Glucose
   96
   94
   120
   116
   Other labs: PT / PTT / INR:16.1/29.2/1.4, CK / CKMB /
   Troponin-T:96//<0.01, ALT / AST:136/71, Alk Phos / T Bili:174/1.1,
   Differential-Neuts:67.0 %, Lymph:21.4 %, Mono:9.7 %, Eos:1.6 %,
   Albumin:3.5 g/dL, LDH:256 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   ## Pericardial effusion: Now s/p drainage in cath lab with drain still
   in place. Effusion is exudative, ddx remains [**Last Name (un) 4517**]
s, viral, TB,
   malignancy.  TSH WNL; PPD negative. Gram stain of effusion negative for
   microorganisms making purulent effusion unlikely.  Currently covering
   empirically for GPCs although very low suspicion for this clinically.
   -continue naproxen
   -[**Doctor First Name 1205**] 1:40 speckled pattern
   -continue to follow up fluid culture, cytology
   -Monitor BP
   -Monitor I/Os, if UOP slows may consider diuresis if pt still
   clinically volume overload.
   -Follow up cards recs re when to remove drain, likely later today.
   -lyme serologies pending
   .
   ## Hyponatremia: Low FeNA on urine lytes prior to IVF, likely
   functional hypovolemic hyponatremia in setting of poor cardiac output.
   Has been slowly correcting with NS, expect to continue to improve now
   that forward flow improved s/p tap. Continue to trend.
   .
   ## s/p LKR: Surgery done at NEBH. Dr. [**Last Name (STitle) 4518**] is surgeon, wife called
   him, is aware pt is here.  Confirms that surgery was uneventful.  Given
   that left knee slightly warmer than right, will ask ortho to eval for
   evidence of infection.
   .
   ## :HTN Hold antihypertensives in setting of effusion
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  sugars well controlled
   Lines:
   20 Gauge - [**2132-8-19**] 05:28 AM
   18 Gauge - [**2132-8-19**] 05:28 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PO diet
   Code status: Full code
   Disposition: likely c/o to floor today

2132-08-22 17:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   started on NSAIDs, lyme negative, GPC pairs and clusters from
   pericardial fluid one bottle.
   24 Hour Events:
 BLOOD CULTURED - At [**2132-8-22**] 05:00 AM
   Started on NSAIDS
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2132-8-22**] 05:48 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-22**] 05:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36
C (96.8
   HR: 93 (84 - 105) bpm
   BP: 124/87(95) {100/60(76) - 137/103(110)} mmHg
   RR: 21 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 203 kg (admission): 98.1 kg
             Total In:
                                                                    870 mL
                                                                  1,348 mL
   PO:
                                                                    870 mL
                                                                    850 mL
   TF:
   IVF:
   498 mL
   Blood products:
   Total out:
                                                                  2,980 mL
                                                                  2,175 mL
   Urine:
                                                                  2,950 mL
                                                                  2,150 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
                                                                     25 mL
   Balance:
                                                                 -2,110 mL
                                                                   -827 mL
   Respiratory support
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   NAD HEENT: OP moist, JVP elevated, Lungs: Decreased BS bases L>R no
   rales, CV: RRR s1s2 no m/r/g  Abd: Soft, NT, BD  Ext: decreased edema,
   right Knee warm and swollen
   Labs / Radiology
   11.3 g/dL
   337 K/uL
   95 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.5 mEq/L
   13 mg/dL
   96 mEq/L
   129 mEq/L
   35.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2132-8-19**]  07:24 AM
                             [**2132-8-19**]  12:43 PM
                             [**2132-8-20**]  12:04 AM
                             [**2132-8-21**]  04:39 AM
                             [**2132-8-22**]  05:33 AM
   WBC
   6.7
   7.3
   7.2
   7.3
   Hct
   37.2
   36.6
   34.8
   35.6
   Plt
   [**Telephone/Fax (3) 4632**]37
   Cr
   1.1
   1.0
   1.0
   0.8
   0.7
   TropT
   <0.01
   Glucose
   96
   94
   120
   116
   95
   Other labs: PT / PTT / INR:13.9/25.6/1.2, CK / CKMB /
   Troponin-T:96//<0.01, ALT / AST:75/35, Alk Phos / T Bili:157/0.8,
   Differential-Neuts:67.0 %, Lymph:21.4 %, Mono:9.7 %, Eos:1.6 %,
   Albumin:3.5 g/dL, LDH:185 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   66 yr old man with a hemmorhaic pericardial effusion with tamponade s/p
   pericardial drain
   1.       Hemmorhagic Pericardial Effusion: decompressed, normal pulsus,
   follow upand cytology
 DDx given lymphocyte predominant viral,
   malignancy, TB PPD negative. Single positive GPC (1out of 3) Started
   Vanco but suspect contaminant. Will d/c Vanco if st epi. Drain for pull
   today. Follow up Echo after drain removal in AM
   2.       Hyponatremia: improving with pericardial decompression and
   autodiuresis
 repeat in AM
   3.       Ortho: no acute indication for tap given exam, lack of fevers
   or positive cultires, appreciate Ortho opinion
   ICU Care
   Nutrition: reg diet, 1 L fluid restriction
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-8-19**] 05:28 AM
   18 Gauge - [**2132-8-19**] 05:28 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Communication:  met with pt and wife
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor